US05278326
Preparation of N-[2,6-bis(1-methylethyl)phenyl]-3-oxo-hexadecanamide
The title compound was prepared from 2-pentadecanone (3.0 g, 0.013 mol), 2,6-diisopropylphenyl isocyanate (2.64 g, 0.013 mol), and lithium diisopropylamide (0.013 mol) using the procedure described in Example 1. Purification by flash chromatography (silica gel, 15% EtOAc/hexane) yielded 1.92 g (0.004, 34%) of the desired product.

reactant | 2-pentadecanone | 0.013 mol, 3.0 g | CC(CCCCCCCCCCCCC)=O | C15H30O
reactant | 2,6-diisopropylphenyl isocyanate | 0.013 mol, 2.64 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C=O | C13H17NO
reactant | lithium diisopropylamide | 0.013 mol | C(C)(C)[N-]C(C)C.[Li+]
product | N-[2,6-bis(1-methylethyl)phenyl]-3-oxo-hexadecanamide | CC(C)C1=C(C(=CC=C1)C(C)C)NC(CC(CCCCCCCCCCCCC)=O)=O | C28H47NO2
